* IHP Open PDK
* simple SRAM cell, exponential current pulses

* Path to the PDK
*.include "D:\Spice_general\skywater-pdk\libraries\sky130_fd_pr\latest\models\corners/tt.spice"
.lib "D:\Spice_general\IHP-Open-PDK\ihp-sg13g2\libs.tech\ngspice\models\cornerMOSlv.lib" mos_tt
*.include lib_out1.lib

.param vdd = 1.2
.param deltat=11n deltat2=27n
.param tochar = 1e-13
.param talpha = 500p tbeta=10p
.param Inull = 'tochar/(talpha-tbeta)'

* the voltage sources: 
Vdd vd gnd DC 'vdd'
Vwl wl 0 0 PULSE 0 'vdd' 45n 1n 1n 7n 1
Vbl bl 0 'vdd'
Vbln bln 0 0
Vctrl ctrl 0 pulse (0 1 10n 1n 1n 1 1)

*V1 in gnd pulse(0 'vdd' 0p 200p 100p 5n 10n)

* Eponential current source with control input
aseegen1 ctrl [%id(n1 m1) %id(n2 m2) %id(n1 m1) %id(n2 m2)] seemod1
.model seemod1 seegen (tdelay = 8n tperiod=20n)

Xnot1 n1 vdd vss n2 not1
Xnot2 n2 vdd vss n1 not1
xmo02   n2 wl bl   vss sg13_lv_nmos  l=0.15u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
xmo01   n1 wl bln  vss sg13_lv_nmos  l=0.15u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u

Vmeasvss vss 0 0
Vmeasvdd vd vdd 0
Vm1 m1 0 0
Vm2 m2 0 0

.subckt not1 a vdd vss z
xm01   z a     vdd     vdd sg13_lv_pmos  l=0.15u  w=0.99u  as=0.26235p  ad=0.26235p  ps=2.51u   pd=2.51u
xm02   z a     vss     vss sg13_lv_nmos  l=0.15u  w=0.495u as=0.131175p ad=0.131175p ps=1.52u   pd=1.52u
c3  a     vss   0.384f
c2  z     vss   0.576f
.ends

* starting condition for SRAM cell
.ic v(n2)=0 v(n1)='vdd'

* simulation command: 
.tran 100ps 100ns ; 0 10p

.options method=gear

.control
run
rusage
*set nolegend
set xbrushwidth=3
plot i(Vmeasvss) i(Vmeasvdd)
plot n1 n2+2 wl+4 i(vm1)*10000+6 i(vm2)*10000+8
.endc

.end
